US09102621B2
N-(methylsulfonyl)-4-{[6-(trifluoromethyl)pyridin-3-yl]methoxy}benzamide formate salt
To methyl 4-hydroxybenzoate (22.8 mg, 0.15 mmol) and [6-(trifluoromethyl)pyridin-3-yl]methanol (22.1 mg, 0.125 mmol) in DCM (1 mL) was added N,N,N′N′-tetramethylazodicarboxylate (43 mg) and polymer supported triphenylphosphine (3 mmol/g, 125 mg, 0.375 mmol). The reaction was shaken at 30° C. for 16 hours, filtered, diluted with aqueous citric acid solution (2.5%, 1 mL) and extracted with DCM (3×1 mL). The combined organics were concentrated in vacuo. The resulting crude residue was dissolved in THF (0.625 mL), treated with aqueous lithium hydroxide solution (2 M, 0.625 mL, 1.25 mmol) and the mixture shaken at 50° C. for 16 hours. The solvent was removed in vacuo, the residue dissolved in aqueous citric acid solution (4 M, 0.4 mL, 1.6 mmol) and extracted with EtOAc (3×1 mL), dried over sodium sulfate, filtered and the solvent removed in vacuo. To the resulting crude residue DCM (1 mL), methanesulphonamide (12 mg, 0.126 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDCI) (72 mg, 0.377 mmol) and DMAP (23 mg, 0.188 mmol) was added and the mixture was shaken at 30° C. for 16 hours. The solvent was removed under reduced pressure and the resulting crude product was purified by preparative HPLC to afford the title compound.

reactant | methyl 4-hydroxybenzoate | 0.15 mmol, 22.8 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | [6-(trifluoromethyl)pyridin-3-yl]methanol | 0.125 mmol, 22.1 mg | FC(C1=CC=C(C=N1)CO)(F)F | C7H6F3NO
reactant | triphenylphosphine | 0.375 mmol, 125 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium hydroxide | 1.25 mmol, 2 M, 0.625 mL | [OH-].[Li+]
reactant | citric acid | 1.6 mmol, 4 M, 0.4 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | methanesulphonamide | 0.126 mmol, 12 mg | CS(=O)(=O)N | CH5NO2S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.377 mmol, 72 mg | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.188 mmol, 23 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(methylsulfonyl)-4-{[6-(trifluoromethyl)pyridin-3-yl]methoxy}benzamide formate salt | C(=O)O.CS(=O)(=O)NC(C1=CC=C(C=C1)OCC=1C=NC(=CC1)C(F)(F)F)=O | InChI=1S/C15H13F3N2O4S.CH2O2/c1-25(22,23)20-14(21)11-3-5-12(6-4-11)24-9-10-2-7-13(19-8-10)15(16,17)18;2-1-3/h2-8H,9H2,1H3,(H,20,21);1H,(H,2,3)
